US07557114B2
(d) (2-Fluoro-6-hydroxymethyl-4-trifluoromethyl-phenyl)-methanol
Prepared in analogy to Example A16(a) from 4-Fluoro-6-trifluoromethyl-3H-isobenzofuran-1-one e and sodium borohydride. Colorless oil. MS (m/e): 225.1 ([M+H+, 100%).

reactant | 4-Fluoro-6-trifluoromethyl-3H-isobenzofuran-1-one | FC1=C2COC(C2=CC(=C1)C(F)(F)F)=O | C9H4F4O2
reactant | sodium borohydride | [BH4-].[Na+]
product | (2-Fluoro-6-hydroxymethyl-4-trifluoromethyl-phenyl)-methanol | FC1=C(C(=CC(=C1)C(F)(F)F)CO)CO | C9H8F4O2
